US06417202B1
3-Acetyl-4-methyl-5-(4-pyridyl)-2-(2-thienyl)-1H-pyrrole
The title compound was prepared from 3-acetyl-2-bromo-4-methyl-5-(4-pyridyl)-1H-pyrrole according to the procedure of Example 46 using 2-thienylboronic acid instead of 4-pyridylboronic acid in step 3.

reactant | 3-acetyl-2-bromo-4-methyl-5-(4-pyridyl)-1H-pyrrole | C(C)(=O)C1=C(NC(=C1C)C1=CC=NC=C1)Br | C12H11BrN2O
reactant | 2-thienylboronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
product | 3-Acetyl-4-methyl-5-(4-pyridyl)-2-(2-thienyl)-1H-pyrrole | C(C)(=O)C1=C(NC(=C1C)C1=CC=NC=C1)C=1SC=CC1 | C16H14N2OS
